US08710086B2
Compound 5 was prepared according to General Method 2. A solution of 4-(3-(4-(chloromethyl)-3-fluorophenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile (100 mg, 0.21 mmol) and diethyl amine (48 mg, 0.63 mmol) in toluene 10 mL was refluxed for 12 h. The solvent was removed and residue was purified by silica gel chromatography (eluant: 60% ethyl acetate in hexane) to obtain 32 mg of 4-(3-(4-((diethylamino)methyl)-3-fluorophenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile as brown viscus oil, HPLC, Column: SUNFIRE C18, 4.6×250 mm, 5 μm, Mobile Phase A: 0.05% TFA, Mobile Phase B: ACN, Gradient: 10% to 90% B in 10 min, hold for 10 min. 90% to 10% B in 1 min, Flow Rate: 1 mL/min, Retention time: 7.43 min, M+1, 493.

reactant | 4-(3-(4-(chloromethyl)-3-fluorophenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile | 0.21 mmol, 100 mg | ClCC1=C(C=C(C=C1)N1C(N(C(C1(C)C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=S)F | C20H14ClF4N3OS
reactant | diethyl amine | 0.63 mmol, 48 mg | C(C)NCC | C4H11N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-(4-((diethylamino)methyl)-3-fluorophenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile | 32 mg | C(C)N(CC)CC1=C(C=C(C=C1)N1C(N(C(C1(C)C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=S)F | C24H24F4N4OS
